US04710573
6-Bromo-3-(4-piperidinyl)-1H-indazole
A mixture of 9.6 g of 1-acetyl-4-(4-bromo-2-fluorobenzoyl)piperidine and 50 ml of hydrazine hydrate was stirred in an autoclave at 135°-140° C. for 20 hr. The reaction mixture was quenched with water and the solid was collected. The solid was recrystallized from acetonitrile (charcoal) to yield 2.6 g (32%) of product, mp 163°-165° C.

reactant | 1-acetyl-4-(4-bromo-2-fluorobenzoyl)piperidine | 9.6 g | C(C)(=O)N1CCC(CC1)C(C1=C(C=C(C=C1)Br)F)=O | C14H15BrFNO2
reactant | hydrazine hydrate | 50 ml | O.NN
product | 6-Bromo-3-(4-piperidinyl)-1H-indazole | 2.6 g, 32% | BrC1=CC=C2C(=NNC2=C1)C1CCNCC1 | C12H14BrN3
